US07417056B2
4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester
4-(5-Fluoro-2-hydroxy-3-(2-hydroxyethyl)phenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester (3.90 g, 10.2 mmol) is dissolved with triphenylphosphine (3.14 g, 12 mmol) and triethylamine (2.1 ml, 15 mmol) in acetonitrile (150 ml), mixed with carbon tetrachloride (2 ml) and stirred for 3 days in a nitrogen atmosphere at room temperature. The solvent is distilled off in a rotary evaporator, and the residue is taken up in ethyl acetate (150 ml) and water (75 ml). The ethyl acetate phase is separated, washed with saturated NaCl solution, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 3.31 g of the product.

reactant | 4-(5-Fluoro-2-hydroxy-3-(2-hydroxyethyl)phenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | 10.2 mmol, 3.90 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC(=C1)F)CCO)O)(C(F)(F)F)O)=O | C17H22F4O5
reactant | triphenylphosphine | 12 mmol, 3.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | 3.31 g | C(C)OC(C(CC(C)(C)C1=CC(=CC=2CCOC21)F)(C(F)(F)F)O)=O | C17H20F4O4
